US09289430B2
To a solution of sodium methanolate (1.05 g, 19.44 mmol, 4.00 equiv) in methanol (40 mL) at 0° C. was added aminoguanidine bicarbonate (2.66 g, 19.54 mmol, 4.00 equiv) in several batches. To this was added dropwise a solution of methyl 3-(trifluoromethyl)benzoate (1 g, 4.90 mmol, 1.00 equiv) in methanol (10 mL) with stirring at 0° C. The resulting solution was then stirred overnight at 75° C. in an oil bath. The reaction was then quenched with 10 mL of water/ice, the solution adjusted to pH 3-4 with hydrochloric acid (1 mol/L), and the solids were collected by filtration To afford 150 mg (13%) of 5-(3-(trifluoromethyl)phenyl)-4H-1,2,4-triazol-3-amine as a yellow solid.

reactant | sodium methanolate | 19.44 mmol, 1.05 g, 4.00 equiv | C[O-].[Na+]
reactant | aminoguanidine bicarbonate | 19.54 mmol, 2.66 g, 4.00 equiv | C(O)(O)=O.NNC(=N)N
reactant | methyl 3-(trifluoromethyl)benzoate | 4.90 mmol, 1 g, 1.00 equiv | FC(C=1C=C(C(=O)OC)C=CC1)(F)F | C9H7F3O2
solvent | methanol | 40 mL | CO | CH4O
solvent | methanol | 10 mL | CO | CH4O
product | 5-(3-(trifluoromethyl)phenyl)-4H-1,2,4-triazol-3-amine | 150 mg, 13% | FC(C=1C=C(C=CC1)C=1NC(=NN1)N)(F)F | C9H7F3N4
